US06303790B1
b) (RS)-6-(4-Methyl-piperazin-1-yl)4-o-tolyl-4,5-dihydro-pyridine-3-carboxylic acid methylamide
A solution of 3.0 g (17.6 mmol) 6-chloro-N-methyl-nicotinamide in 42.0 ml THF was treated at 4° C. dropwise over 15 min. with 43.8 ml (43.8 mmol) o-tolylmagnesiumchloride-solution (1M in THF). The reaction mixture was stirred for 2 h at r.t., cooled to 0° C. and treated dropwise with 50 ml 5% aqueous NH4Cl. The aqueous phase was separated and extracted twice with toluene and the organic phases were washed twice with 5% aqueous NH4Cl. The combined organic phases were dried over Na2SO4 and filtrated. The filtrate was treated with 9.8 ml (88.3 mmol) 1-methylpiperazine and stirred for 1.5 h at r.t. The reaction mixture was treated with 40 ml 5% aqueous NH4Cl and the pH adjusted with NaOH (28%) to 10. The aqueous phase was separated and extracted twice with CH2Cl2 and the organic phases were washed twice with brine. The combined organic phases were dried over Na2SO4 and filtrated. The solvent was removed under reduced pressure to yield 5.4 g (94.6 %) product as yellowish crystals, m.p. 137.0-138.0° C.

reactant | 6-chloro-N-methyl-nicotinamide | 17.6 mmol, 3.0 g | ClC1=NC=C(C(=O)NC)C=C1 | C7H7ClN2O
reactant | o-tolylmagnesiumchloride | 43.8 mmol, 1M, 43.8 ml | C1(=C(C=CC=C1)[Mg]Cl)C
reactant | NH4Cl | 50 ml | [NH4+].[Cl-]
reactant | 1-methylpiperazine | 88.3 mmol, 9.8 ml | CN1CCNCC1 | C5H12N2
reactant | NH4Cl | 40 ml | [NH4+].[Cl-]
reactant | NaOH | [OH-].[Na+]
solvent | THF | 42.0 ml | C1CCOC1 | C4H8O
product | (RS)-6-(4-Methyl-piperazin-1-yl)4-o-tolyl-4,5-dihydro-pyridine-3-carboxylic acid methylamide | 5.4 g, 94.6 % | CNC(=O)C1=CN=C(CC1C1=C(C=CC=C1)C)N1CCN(CC1)C | C19H26N4O
